US07947689B2
N-[2-(4,5-Dimethyl-thiophen-2-yl)-ethyl]-acetamide
In close analogy to the procedure described above, 2-(4,5-Dimethyl-thiophen-2-yl)-ethylamine is reacted with acetic anhydride to provide the title compound.

reactant | 2-(4,5-Dimethyl-thiophen-2-yl)-ethylamine | CC=1C=C(SC1C)CCN | C8H13NS
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | N-[2-(4,5-Dimethyl-thiophen-2-yl)-ethyl]-acetamide | Yield: 79% | CC=1C=C(SC1C)CCNC(C)=O | C10H15NOS
